US07842688B2
e) 1-(2-Ethoxy-5-methylphenyl)ethanone
The stirred solution of 20.0 g of 1-(2-hydroxy-5-methylphenyl)ethanone in 600 ml of ethanol is admixed with 8.0 g of sodium hydroxide. The resulting solution is admixed with 25.9 ml of diethyl sulphate and the mixture is kept at room temperature over 72 hours. The reaction mixture is concentrated by evaporation, and the residue is admixed with 1M NaOH (300 ml) and extracted with tert-butyl methyl ether (2×500 ml). The organic phases are washed with brine (300 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a brown solid from the residue by means of flash chromatography (SiO2 60F). Rt=4.49.

reactant | 1-(2-hydroxy-5-methylphenyl)ethanone | 20.0 g | OC1=C(C=C(C=C1)C)C(C)=O | C9H10O2
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | diethyl sulphate | 25.9 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 1-(2-Ethoxy-5-methylphenyl)ethanone | C(C)OC1=C(C=C(C=C1)C)C(C)=O | C11H14O2
